US07094801B2
Ex-41A: 4-Methoxy-3-(thiophen-2-yl)-benzaldehyde was prepared from 3-bromo-4-methoxybenzaldehyde and thiophene-2-boronic acid in a similar manner as described in Ex-3A. Orange oil, 96% yield. 1H-NMR (CDCl3) δ 9.94 (s, 1H), 8.16 (d, J=1.8 Hz, 1H), 7.80 (dd, J=2.4, 8.4 Hz, 1H), 7.57 (dd, J=1.8, 3.6 Hz, 1H), 7.38 (d, J=5.1 Hz, 1H), 7.12 (dd, J=3.6, 5.1 Hz, 1H), 7.09 (d, J=8.4 Hz, 1H), 4.02 (s, 3H). HRMS m/z: calc. 218.0402, found 218.0406.

reactant | 3-bromo-4-methoxybenzaldehyde | BrC=1C=C(C=O)C=CC1OC | C8H7BrO2
reactant | thiophene-2-boronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
product | 4-Methoxy-3-(thiophen-2-yl)-benzaldehyde | 96% yield | COC1=C(C=C(C=O)C=C1)C=1SC=CC1 | C12H10O2S
